Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L TKA c/b wound dehiscence
 
Major Surgical or Invasive Procedure:
now s/p L medial gastroc flap with skin graft.

 
History of Present Illness:
___ F w/ AFib (on Warfarin), T2DM, HTN, HLD knee 
osteoarthritis 3 weeks s/p L TKA revision (___) who presents 
with surgical site cellulitis vs. hematoma, with concern for 
wound dehiscence. She was doing well post-operatively until 
___, when she presented to clinic with erythema over the
middle of the incision, serosanguinous drainage from the distal 
incision, and pain/tenderness over the incision, however without 
frank dehiscence. She was admitted for further evaluation and 
management of cellulitis vs. hematoma, with concern for 
impending wound dehiscence. Her INR at admission was therapeutic 
at 2.3. X-ray demonstrated no involvement of hardware. No other 
imaging was performed. Joint fluid aspiration was attempted 
however d/c'd due to patient discomfort. She is currently being 
managed with IV antibiotics (Ancef & Vancomycin), with some 
improvement of surgical site erythema. Plastics was consulted 
regarding wound soft tissue coverage.

 
Past Medical History:
- Atrial fibrillation
- Type 2 diabetes mellitus
- Hypertension
- Hyperlipidemia
- Osteoarthritis
- Bradycardia
- Carpal tunnel syndrome
- Hepatitis B
- Migraines
- RUE extensor tendinitis
.
Past surgical history
- L total knee revision (___)
- R total knee replacement (___)
- L total knee replacement (___)
- Arthroscopic R shoulder surgery (___)
- Bilateral tubal ligation (___)

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission physical exam as documented in plastics progress note 
___:
AVSS
NAD
Regular rate, warm and perfused
Clear, breathing comfortably
Abdomen soft, nontender
Extremities WWP, minimal edema
.
Surgical Site: knee immobilized in place, ace in place, vac 
holding suction. minimally tender, soft, no ecchymosis, drainage 
is minimal and serosanguinous, no evidence of hematoma or seroma

 
Pertinent Results:
___ 05:14AM BLOOD WBC-13.6*# RBC-3.45* Hgb-9.5* Hct-29.3* 
MCV-85 MCH-27.5 MCHC-32.4 RDW-14.9 RDWSD-45.8 Plt ___
___ 05:14AM BLOOD ___
___ 05:14AM BLOOD Glucose-188* UreaN-13 Creat-0.8 Na-141 
K-3.7 Cl-100 HCO3-23 AnGap-18*
___ 05:14AM BLOOD Calcium-8.3* Phos-4.2 Mg-1.5*
___ 06:14AM BLOOD WBC-8.0 RBC-3.06* Hgb-8.4* Hct-26.1* 
MCV-85 MCH-27.5 MCHC-32.2 RDW-14.6 RDWSD-45.1 Plt ___
.

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a L medial gastroc flap with skin graft to left 
knee wound defect.  The patient tolerated the procedure well. 
 .
 Neuro: Post-operatively, the patient received IV pain 
medication with good effect and adequate pain control. When 
tolerating oral intake, the patient was transitioned to oral 
pain medications. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.  
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. Her diet was advanced when appropriate, 
which was tolerated well. She was also started on a bowel 
regimen to encourage bowel movement. Patient was given fleet and 
soap suds enema on POD#7 for constipation and had large bowel 
movement.  Intake and output were closely monitored. 
 .
 ID: The patient was started on IV cefazolin on POD#6 after 
Infectious Disease consult recommended another two week course 
of antibiotics for ? hardware exposure.  All tissue cultures and 
joint aspirations, prior to this admission, were negative for 
any bacterial growth. There were no cultures obtained during 
this admission. The patient's temperature was closely watched 
for signs of infection. 
 .
 Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and move around as early 
as possible. Her Coumadin was restarted pos-operatively and 
heparin sq was discontinued once Coumadin was therapeutic.
 .
 At the time of discharge on POD#7, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diabetic 
diet, ambulating with knee immobilizer to LLE and TDWB, voiding 
without assistance, and pain was well controlled.  Left thigh 
donor site was covered with adaptic and tegaderm.  Left knee 
gastroc flap/STSG was healthy and intact; dressed with adaptic, 
fluffs, kerlix and ace wraps.  Knee immobilizer in place to LLE.
 
Medications on Admission:
1. Gabapentin 200 mg PO TID  
2. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate  
3. Warfarin 10 mg PO DAILY16 Afib  
4. Acetaminophen 650 mg PO Q6H  
5. amLODIPine 7.5 mg PO DAILY  
6. Docusate Sodium 100 mg PO BID  
7. Levothyroxine Sodium 50 mcg PO DAILY  
8. Lisinopril 40 mg PO DAILY  
9. Senna 8.6 mg PO BID:PRN constipation  
10. Simvastatin 20 mg PO QPM  

 
Discharge Medications:
1.  CeFAZolin 2 g IV Q8H  
2.  Gabapentin 200 mg PO TID  
3.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate  
4.  Acetaminophen 650 mg PO Q6H  
5.  amLODIPine 7.5 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Levothyroxine Sodium 50 mcg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  Senna 8.6 mg PO BID:PRN constipation  
10.  Simvastatin 20 mg PO QPM  
11.  Warfarin 10 mg PO 5X/WEEK (___) Afib  
12.  Warfarin 7.5 mg PO 2X/WEEK (MO,FR)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Wound dehiscence over Left TKA incision

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You should keep your left lower extremity elevated when you are 
not completing your activities of daily living (you may use 
pillows at home) to help with swelling and drainage.
-You are touch down weight bearing on your left foot/leg. 
-You should have your knee immobilizer on your left leg at all 
times.  You may undo the straps while your are lying awake in 
bed for comfort.
-You will have your left leg dressings changed every ___ days 
according to directives on your Page 2. 
-Drain Care 
.
Diet/Activity: 
1. You may resume your regular diet. 
2. Avoid heavy lifting and do not engage in strenuous activity 
until instructed by your doctor. 
. 
Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. 
3. Take prescription pain medications for pain not relieved by 
tylenol.
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
.
Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).
2. A large amount of bleeding from the incision(s).
3. Fever greater than 101.5 oF
4. Severe pain NOT relieved by your medication.
.
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
.
DRAIN DISCHARGE INSTRUCTIONS 
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction. 

 
Followup Instructions:
___